US06316466B1
To a solution of 5-amino-1-(2,4-difluorophenyl)-4-[3-formylbenzoyl] pyrazole (0.3 g, 0.92 mmol), piperidine (0.1 ml, 1.0 mmol), acetic acid (0.05 ml) in 1,2-dichloroethane (5 ml) was added sodium triacetoxyborohydride (0.29 g, 1.37 mmol). After stirring at room temperature for 12 hours, the reaction was diluted with 10% hydrochloric acid and ethyl acetate (10 ml). The aqueous layer was separated and neutralized to pH 9 with sodium hydroxide and was then extracted with ethyl acetate. The combined organics were separated and washed with brine (25 ml), dried over MgSO4 and then concentrated in vacuo to a brown oil. The oil was purified by flash column chromatography using 1:1 hexanes/ethyl acetate to remove impurities and ethyl acetate to elute the desired product. Concentration of the column fractions in vacuo gave 5-amino-1-(4-fluorophenyl)-4-[3-(1-piperidinylmethyl)benzoyl] pyrazole as an oil (0.211 g). The compound was triturated to a solid from hexanes/ethyl acetate.

reactant | 5-amino-1-(2,4-difluorophenyl)-4-[3-formylbenzoyl] pyrazole | 0.92 mmol, 0.3 g | NC1=C(C=NN1C1=C(C=C(C=C1)F)F)C(C1=CC(=CC=C1)C=O)=O | C17H11F2N3O2
reactant | piperidine | 1.0 mmol, 0.1 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.05 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.37 mmol, 0.29 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
solvent | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 5-amino-1-(4-fluorophenyl)-4-[3-(1-piperidinylmethyl)benzoyl] pyrazole | 0.211 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)CN1CCCCC1)=O | C22H23FN4O
